US05952362
A solution of lithium aluminum hydride (1M) in THF (2.57 mmol, 2.57 ml) was added dropwise to a 0° C. solution of N-methanesufonyl-6-carbomethoxyindole in dry THF (10 mL, from above). After 30 min, 0.5 ml of water was added dropwise followed by the addition of 0.5 ml 1.0M NaOH solution. Celite was added and the mixture was filtered through a coarse fritted funnel. The solids were washed with 20 ml ethyl acetate. The filtrate was concentrated under vacuum. The product was purified by flash column chromatography (silica gel, applied to column with toluene, gradient elution 20-50% ethyl acetate/hexane) to give 370 mg of N-methanesulfonyl-6-hydroxymethylindole, a white solid (80% yield).

reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-methanesufonyl-6-carbomethoxyindole | CS(=O)(=O)N1C=CC2=CC=C(C=C12)C(=O)OC | C11H11NO4S
reactant | water | 0.5 ml | O | H2O
reactant | NaOH | 1.0M, 0.5 ml | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.57 mmol, 2.57 ml | C1CCOC1 | C4H8O
product | N-methanesulfonyl-6-hydroxymethylindole | 370 mg | CS(=O)(=O)N1C=CC2=CC=C(C=C12)CO | C10H11NO3S
